US04859687
3-[2-(2,4-Dichlorobenzyl)-4-methyl-1,3-dioxolan-2-yl] pyridine
13.3 g of 2,4-dichlorobenzyl-3-pyridyl ketone, 7.6 g of propanediol-1,2 and 13.0 g of p-toluenesulfonic acid are boiled in 150 ml of xylene for 32 h in a water separator. After cooling to RT, the reaction mixture is poured into 600 ml of 2N sodium hydroxide solution, and extracted 3 times with 200 ml of ether each time. The combined organic phases are washed with 250 ml of water, dried over sodium sulfate and filtered. The solvent is evaporated off and the oily crude product is purified by column chromatography (eluant: ether). The compound is obtained as clear colourless oil; nD22.5 :1.5676.

reactant | 2,4-dichlorobenzyl-3-pyridyl ketone | 13.3 g | ClC1=C(CC2=NC=CC=C2C(=O)C=2C(=NC=CC2)CC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C25H16Cl4N2O
reactant | p-toluenesulfonic acid | 13.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | sodium hydroxide | 2N, 600 ml | [OH-].[Na+]
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[2-(2,4-Dichlorobenzyl)-4-methyl-1,3-dioxolan-2-yl] pyridine | ClC1=C(CC2(OCC(O2)C)C=2C=NC=CC2)C=CC(=C1)Cl | C16H15Cl2NO2
